Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:2]([C:3]([O:4][H:14])([H:12])[H:13])=[N+:5]([C:6](=[O:7])[H:16])[H:15].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],15.431870396798715
[C-:2](=[O+:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],15.087448840239993
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]([H:12])[H:14])[C:5]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:13])[H:18],56.1755629705191
[C:4](#[N:5])[H:10].[O:1](/[C:2](=[C:3](/[C:6]#[C:7][H:12])[H:11])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],77.02964643659739
[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:5]([C:3](=[O:4])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],101.519240733784
[C:1](=[O+:2][C:3](=[O:4])[C:5]([C-:6]([O:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][H:14]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],2.833369616457915
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2](=[O+:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11],81.8745326240408
[O:1]=[C:2]([C:3]([O:4][H:8])=[C:5]=[O:6])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],57.027677668121086
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2](#[N:3])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13],98.05665840520821
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[O:7]([H:20])[H:21]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],43.7769965647086
[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:3]1([H:10])[H:13].[O:4]=[C:5]([O:6][H:14])[N:7]([H:15])[H:16]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],58.129764684749304
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[H:10][H:13].[O:1]([C:2](=[C:3]=[C:4]1[C:5]([H:11])([H:12])[C:6]1=[O:7])[H:9])[H:8],78.1749604821012
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:12])[H:13].[H:11][H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],35.7885324061711
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[H:10][H:11].[N:1](/[C:2](=[C:3](\[O:4][H:12])[C:5]#[N:6])[H:9])([H:7])[H:8],92.34824326333
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1([H:8])[C:2]([H:9])=[O+:3][C:4]([H:10])([H:11])[C:6](=[C:5]([H:12])[H:13])[N-:7]1,105.93505932808
[O:1]=[C:2]1[C+:3]([H:8])[C:4]([H:9])=[N:5][C:6]([H:10])([H:11])[N-:7]1>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,8.700832027142205
[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([N:5]=[C:4]=[C:2]=[O:3])([H:6])([H:7])[H:8],85.6480933286368
[O:1]=[C:2]([C:5](=[C:4]=[C:3]([H:8])[H:9])[H:10])[C:6]#[N:7]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],61.3829490738832
[C:1]([O:2]/[C:3](=[C:4](/[C:6]([O:7][H:19])([H:17])[H:18])[H:13])[H:12])([H:8])([H:9])[H:10].[C:5]([H:11])([H:14])([H:15])[H:16]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],93.5728471229787
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[C-:4]#[O+:5].[N-:1]([C+:2]([O-:3])[C+:6]=[N:7][H:9])[H:8],39.011022900711396
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[C:3](=[C:4]=[C:5]([H:8])[H:12])([C:6]#[N:7])[H:11].[O:1]=[C:2]([H:9])[H:10],22.4199074110068
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:15].[C:2](=[O:3])([C:4]([N:5]([H:11])[H:14])([H:12])[H:13])[C:6]#[N:7],77.0652410514037
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]=[N+:3]([N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],107.30188866966
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:4](=[N:5][H:10])([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:6])[H:7],61.4609181380169
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[C-:3]#[C:4][C+:5]=[N:6][H:7].[O:1]=[C:2]([H:8])[H:9],63.475472786108206
[O:1]([C:2]([O:7]/[C:6](=[C:3]1/[C:4]([H:11])([H:12])[N:5]1[H:13])[H:14])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],14.018454748937693
